US07592453B2
tert-Butyl (3aR*,4S*,9bR*)-3a-methyl-4-phenyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline-1-carboxylate (endo form)
To a mixture of benzaldehyde (425 mg, 4.0 mmol), aniline (372 mg, 4.0 mmol) and acetonitrile (8 ml) were added N-Boc-3-methyldihydropyrrole (732 mg, 4.0 mmol) and Dy(OTf)3 (122 mg, 0.19 mmol) under ice-cooling, and the mixture was stirred at the same temperature for 30 min., and at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure, water was added and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried (over anhydrous MgSO4), and concentrated under reduced pressure. The residue was subjected to column chromatography using silica gel (30 g) and eluted with hexane- ethyl acetate (4:1, v/v) to give the title compound (780 mg, 53%) as an amorphous form.

reactant | benzaldehyde | 4.0 mmol, 425 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | aniline | 4.0 mmol, 372 mg | NC1=CC=CC=C1 | C6H7N
reactant | N-Boc-3-methyldihydropyrrole | 4.0 mmol, 732 mg | C(=O)(OC(C)(C)C)N1CC(C=C1)C | C10H17NO2
catalyst | Dy(OTf)3 | 0.19 mmol, 122 mg | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Dy+3]
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
product | tert-Butyl (3aR*,4S*,9bR*)-3a-methyl-4-phenyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline-1-carboxylate | 780 mg, 53% | C[C@@]12[C@@H](NC=3C=CC=CC3[C@@H]1N(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2 | C23H28N2O2
